US04032345
(a) Synthesis of 1-Hydroxy-4-nitro-N-[γ-(2,4-di-tert-amylphenoxy)propyl]-2-naphthamide:
100 g of 1-hydroxy-N-[γ-(2,4-di-tert-amylphenoxy)propyl]-2-naphthamide was dissolved in 1 liter of acetic acid and nitrated at 15°-18° C. using 23 g of a 60% nitric acid aqueous solution. After the completion of the reaction, 1 liter of methanol was added thereto and precipitated crystals were separated by filtration. After recrystallization from a 2:1 by volume solvent mixture composed of ethyl acetate and methanol, 70 g of the titled compound was obtained. The melting point was 209°-210° C.

reactant | 1-hydroxy-N-[γ-(2,4-di-tert-amylphenoxy)propyl]-2-naphthamide | 100 g | OC1=C(C=CC2=CC=CC=C12)C(=O)NCCCOC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC | C30H39NO3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | methanol | 1 liter | CO | CH4O
solvent | acetic acid | 1 liter | C(C)(=O)O | C2H4O2
product | 1-Hydroxy-4-nitro-N-[γ-(2,4-di-tert-amylphenoxy)propyl]-2-naphthamide | 70 g | OC1=C(C=C(C2=CC=CC=C12)[N+](=O)[O-])C(=O)NCCCOC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC | C30H38N2O5
